US04276295
To an ice-cooled mixture consisting of 500 mg of 2-amino-5-ethoxycarbonyl-4,6-dimethylbenzoic acid, 15 ml of benzene, and 0.3 ml of pyridine was added dropwise with stirring a solution of 323 mg of isobutyryl chloride in 2 ml of benzene. After completion of the addition, the reaction mixture was further stirred for 5 hours at room temperature, and then heated to reflux for one hour. After cooling, the mixture was shaken with dilute hydrochloric acid and the layers were separated. The slightly acidic aqueous layer was extracted with ethyl acetate, and the combined organic extracts were washed with water, dried over anhydrous sodium sulfate, and evaporated. The resulting residue was recrystallized from ethyl ether/n-hexane to yield 523 mg of 5-ethoxycarbonyl-2-isobutyrylamino-4,6-dimethylbenzoic acid.

reactant | 2-amino-5-ethoxycarbonyl-4,6-dimethylbenzoic acid | 500 mg | NC1=C(C(=O)O)C(=C(C(=C1)C)C(=O)OCC)C | C12H15NO4
reactant | pyridine | 0.3 ml | N1=CC=CC=C1 | C5H5N
reactant | isobutyryl chloride | 323 mg | C(C(C)C)(=O)Cl | C4H7ClO
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | 5-ethoxycarbonyl-2-isobutyrylamino-4,6-dimethylbenzoic acid | 523 mg | C(C)OC(=O)C=1C(=CC(=C(C(=O)O)C1C)NC(C(C)C)=O)C | C16H21NO5
